US07629494B2
A magnetic stirrer bar was attached to a 1 L round bottom flask. 2-Cyclopropyl-6-methylphenyl acetate (32.5 g), methanol (90 ml) and an aqueous 4M NaOH solution (90 ml) were added thereto, and the mixture was stirred at room temperature for 2 hours. After most of methanol was removed by concentration, the obtained mixture was cooled in ice-water and water (500 ml) and 4M hydrochloric acid (120 ml) were added thereto, followed by stirring of the mixture. This was extracted with a 10% ethyl acetate-90% hexane (V/V) solvent mixture (3×200 ml). The organic layer was combined and successively washed with water (3×200 ml) and a saturated aqueous NaCl solution (200 ml), followed by drying with anhydrous sodium sulfate. After the solid was removed by filtration, the filtrate was concentrated to obtain 27.09 g (purity: 54.6%) of a crude product of 2-cyclopropyl-6-methylphenol.

reactant | 2-Cyclopropyl-6-methylphenyl acetate | 32.5 g | C(C)(=O)OC1=C(C=CC=C1C)C1CC1 | C12H14O2
reactant | NaOH | 4M, 90 ml | [OH-].[Na+]
solvent | methanol | 90 ml | CO | CH4O
product | 2-cyclopropyl-6-methylphenol | C1(CC1)C1=C(C(=CC=C1)C)O | C10H12O
